US06468998B1
2-(2-Pyridyl)phenylacetic acid and (S)-3-amino-1-(2-(4-fluorophenyl)ethyl)pyrrolidine were reacted under the same conditions as in Example 23 to give (S)-N-(1-(2-(4-fluorophenyl)ethyl)pyrrolidin-3-yl)-2-(2-pyridyl)phenylacetamide.

reactant | 2-(2-Pyridyl)phenylacetic acid | N1=C(C=CC=C1)C1=C(C=CC=C1)CC(=O)O | C13H11NO2
reactant | (S)-3-amino-1-(2-(4-fluorophenyl)ethyl)pyrrolidine | N[C@@H]1CN(CC1)CCC1=CC=C(C=C1)F | C12H17FN2
product | (S)-N-(1-(2-(4-fluorophenyl)ethyl)pyrrolidin-3-yl)-2-(2-pyridyl)phenylacetamide | FC1=CC=C(C=C1)CCN1C[C@H](CC1)NC(CC1=C(C=CC=C1)C1=NC=CC=C1)=O | C25H26FN3O
